US05053416
3-(4-methylthiazol-2-yl)-1,2,5,6-tetrahydropyridine hydrochloride
3.64 g of [1-methyl-3-(4-methylthiazol-2-yl)-1,2,5,6-tetrahydropyridine] is dissolved in 70 cm3 of dichloroethane, 2.95 g of alphachloroethyl chloroformate is added at 0° C. under inert atmosphere, and the whole is heated under reflux for one hour 30 minutes. The solvent is eliminated, te residue is taken up with ether and filtered. The filtrate is concentrated to dryness, the residue is taken up in 40 cm3 of methanol and heated for 30 minutes under reflux. The solvent is eliminated and the residue is crystallized twice from ethanol and ether and 2.67 g of expected product is obtained. M.p.=184°-185° C. (decomp.).

reactant | 1-methyl-3-(4-methylthiazol-2-yl)-1,2,5,6-tetrahydropyridine | CN1CC(=CCC1)C=1SC=C(N1)C | C10H14N2S
reactant | alphachloroethyl chloroformate | 2.95 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | ether | CCOCC | C4H10O
solvent | dichloroethane | 70 cm3 | ClC(C)Cl | C2H4Cl2
product | 3-(4-methylthiazol-2-yl)-1,2,5,6-tetrahydropyridine hydrochloride | 2.67 g | Cl.CC=1N=C(SC1)C=1CNCCC1 | InChI=1S/C9H12N2S.ClH/c1-7-6-12-9(11-7)8-3-2-4-10-5-8;/h3,6,10H,2,4-5H2,1H3;1H
